US03937714
5,6-Dimethyl-2-aminobenzothiazole (5.0 g., 0.028 mole), 85% hydrazine hydrate (3.49 g.; 0.056 mole) and hydrazine monohydrochloride (1.99 g.; 0.028 mole) were reacted in the procedures of Example 1. 5,6-Dimethyl-2-hydrazinobenzothiazole was obtained in 82% yield, m.p. 223°-228°C. Assay (titration) 97.2%. Recrystallization from ethanol gave material melting 235°-237°C. (dec.).

reactant | 5,6-Dimethyl-2-aminobenzothiazole | 0.028 mole, 5.0 g | CC=1C(=CC2=C(N=C(S2)N)C1)C | C9H10N2S
reactant | hydrazine hydrate | 0.056 mole, 3.49 g | O.NN
reactant | hydrazine monohydrochloride | 0.028 mole, 1.99 g | Cl.NN
product | 5,6-Dimethyl-2-hydrazinobenzothiazole | 82% yield | CC=1C(=CC2=C(N=C(S2)NN)C1)C | C9H11N3S
